US05623049
N4 -Benzoyl-1-tert-butyloxycarbonylmethylcytosine
tert-Butyl bromoacetate (24 ml; 0.15 mol) is slowly added dropwise, at room temperature, to a suspension of N4 -benzoylcytosine (21.5 g; 0.1 mol) and potassium carbonate 13.8 g; 0.1 mol) in anhydrous N,N-dimethylformamide (2.15 l). The heterogeneous mixture is stirred vigorously at room temperature for 20 h and insoluble starting material is subsequently filtered off with suction; the filtrate is concentrated in vacuo and the residue is subsequently distilled repeatedly with toluene and then taken up in chloroform (1.0 l); it is then extracted once by shaking with water (0.3 l), and the phases are swiftly separated. The organic phase is filtered once more and concentrated. Yield: 15.23.g (46%).

reactant | tert-Butyl bromoacetate | 0.15 mol, 24 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | N4 -benzoylcytosine | 0.1 mol, 21.5 g | C(C1=CC=CC=C1)(=O)NC1=NC(NC=C1)=O | C11H9N3O2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.15 l | CN(C=O)C | C3H7NO
product | N4 -Benzoyl-1-tert-butyloxycarbonylmethylcytosine | C(C1=CC=CC=C1)(=O)NC1=NC(N(C=C1)CC(=O)OC(C)(C)C)=O | C17H19N3O4
